US03991197
A solution of 34 g. of 3',4',5'-trimethoxy-4-methyl-4-nitro-3-(4-pyridyl)-valerophenone in 340 ml. of glacial acetic acid is heated at 50°-60° C. with stirring. There are added portionwise 34 g. of zinc dust. The resulting mixture is left to react for 1 hour. Then a further 34 g. of zinc dust are added and after another hour, the reaction mixture is filtered. The filter residue is washed with glacial acetic acid and the filtrate evaporated under reduced pressure. The residue is taken up in water, make alkaline with potassium carbonate and extracted three times with ethyl acetate. The organic phase is washed with water, dried over sodium sulfate and evaporated under reduced pressure. The residue which results is crystallized with ether to obtain trans-4-[2,2-dimethyl-5-(3,4,5-trimethoxyphenyl)-3-pyrrolidinyl]-pyridine with a melting point of 117°-119° C. The corresponding oxalate, recrystallized from methanol, has a melting point of 228°-230° C. (decomp.).

reactant | 3',4',5'-trimethoxy-4-methyl-4-nitro-3-(4-pyridyl)-valerophenone | COC=1C=C(C=C(C1OC)OC)C(CC(C(C)([N+](=O)[O-])C)C1=CC=NC=C1)=O | C20H24N2O6
catalyst | zinc | [Zn] | Zn
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | trans-4-[2,2-dimethyl-5-(3,4,5-trimethoxyphenyl)-3-pyrrolidinyl]-pyridine | CC1(N[C@H](C[C@@H]1C1=CC=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C | C20H26N2O3
